US04518597
6-[4-(4-Cyclohexyl-phenylmercapto)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one [oil, RF value: 0.7; silica gel plate; chloroform/acetone (19:1)] and 4-cyclohexyl-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(CCCCCC)CCCCCC)C1 | C24H38ClNO3
reactant | 4-cyclohexyl-thiophenol | C1(CCCCC1)C1=CC=C(C=C1)S | C12H16S
product | 6-[4-(4-Cyclohexyl-phenylmercapto)-butoxy]-4,4-di-n-hexyl-4H-3,1-benzoxazin-2-one | C1(CCCCC1)C1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(CCCCCC)CCCCCC)C1 | C36H53NO3S
